US04416820
In N,N-dimethylformamide (DMF) (10 ml) was dissolved Tr-Trp-OBzl (2.15 g, 4 mM), followed by addition of sodium hydride (50% in mineral oil, the same applies below; 240 mg, 5 mM) in a nitrogen gas stream. The reaction was conducted at room temperature for 20 minutes, after which p-toluenesulfonyl chloride (950 mg, 5 mM) was added. The reaction was further carried out at room temperature for 15 hours, at the end of which time ethyl acetate (50 ml) was added and the mixture was stirred for one hour. To the reaction mixture was added water (30 ml) with caution and the organic layer was taken and washed with 5% aqueous sodium hydrogen carbonate and water. After drying over sodium sulfate, the ethyl acetate was distilled off. The residue was purified by column chromatography on silica gel (15 g) using toluene as the solvent to give Tr-Trp(Tos)-OBzl. Yield 1.70 g (61.5%); m.p. 101°-103° C.; [α]D24 +47.6° (c=0.5, DMF).

reactant | Trp-OBzl | 4 mM, 2.15 g | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C18H18N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | p-toluenesulfonyl chloride | 5 mM, 950 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | Trp(Tos)-OBzl | N[C@@H](CC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)OCC1=CC=CC=C1 | C25H24N2O4S
